US07067517B2
Morpholine-4-carboxylic acid 3-(4-methoxy-phenyl)-4-methyl-2-oxo-2H-chromen-7-yl ester
The title compound (120 mg, 61% yield, crystals) was prepared from 7-hydroxy-3-(4-methoxy-phenyl)-4-methyl-chromen-2-one (141 mg, 0.50 mmol) and 1-methyl-3-(morpholine-4-carbonyl)-3H-imidazol-1-ium iodide (165 mg, 0.51 mmol).

reactant | 7-hydroxy-3-(4-methoxy-phenyl)-4-methyl-chromen-2-one | 0.50 mmol, 141 mg | OC1=CC=C2C(=C(C(OC2=C1)=O)C1=CC=C(C=C1)OC)C | C17H14O4
reactant | 1-methyl-3-(morpholine-4-carbonyl)-3H-imidazol-1-ium iodide | 0.51 mmol, 165 mg | [I-].C[N+]1=CN(C=C1)C(=O)N1CCOCC1
product | Morpholine-4-carboxylic acid 3-(4-methoxy-phenyl)-4-methyl-2-oxo-2H-chromen-7-yl ester | 120 mg, 61% yield | COC1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1C)OC(=O)N1CCOCC1)=O | C22H21NO6
